US04853381
2-[[1,1-Dimethyl-6-(2-phenylethoxy)hexyl](phenylmethyl)amino-1-[3,5-bis(phenylmethoxy)phenyl]ethanone
A solution of 2-bromo-1-[3,5-bis(phenylmethoxy)phenyl]ethanone (2.5 g), Intermediate 32 (2.0 g) and N,N-diisopropylethylamine (0.77 g) in THF (25 ml) was stirred at room temperature for 2 h and refluxed for 20 h. ER (100 ml) was added and the resulting suspension was filtered, the filtrate was evaporated and the residue was purified by [C] eluting with cyclohexane-ER (4:1) to give the title compound as a pale yellow oil (1.2g). T.l.c. (cyclohexane-ER 3:1) Rf 0.4

reactant | 2-bromo-1-[3,5-bis(phenylmethoxy)phenyl]ethanone | 2.5 g | BrCC(=O)C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H19BrO3
reactant | N,N-diisopropylethylamine | 0.77 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | THF | 25 ml | C1CCOC1 | C4H8O
product | [1,1-Dimethyl-6-(2-phenylethoxy)hexyl](phenylmethyl)amino-1-[3,5-bis(phenylmethoxy)phenyl]ethanone | 1.2g | CC(CCCCCOCCC1=CC=CC=C1)(C)C(C(=O)C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)NCC1=CC=CC=C1 | C45H51NO4
